US07557131B2
Preparation 71: 3-Chloro-4-hydroxybenzonitrile
The title compound was prepared from 3-chloro-4-hydroxybenzaldehyde and hydroxyl ammonium chloride, using the same method as that described for preparation 70. The title compound was purified by column chromatography on silica gel, eluting with pentane:ethyl acetate, 100:0 to 90:10, to afford the title compound as a white solid in 76% yield.

reactant | 3-chloro-4-hydroxybenzaldehyde | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | hydroxyl ammonium chloride | [Cl-].O[NH3+]
product | 3-Chloro-4-hydroxybenzonitrile | ClC=1C=C(C#N)C=CC1O | C7H4ClNO
